US04554013
Preparation of 3-chloro-N,N-diethyl-p-toluamide
A mixture of 32.2 g (0.19 mol) of 3-chloro-4-methylbenzoic acid in 100 mL of thionyl chloride is treated with 2 drops of dimethylformamide and heated on a steam bath for one hour. The clear amber solution is evaporated in vacuo several times with anhydrous toluene to give a clear amber oily residue. After dilution to a volume of 125 mL with anhydrous tetrahydrofuran, the 3-chloro-4-methyl-benzoyl chloride is added dropwise to a stirred solution of 43.3 mL (0.418 mol) of diethylamine in 300 mL anhydrous tetrahydrofuran under N2 at -5° C. The reaction mixture is allowed to come to room temperature over a 72 hour period then is treated with 300 mL water. The phases are separated; the aqueous phase is extracted with a total of 300 mL ethyl acetate. All organic phases are combined, washed with 300 ml of a saturated sodium chloride solution, dried over magnesium sulfate and concentrated in vacuo to give 40.0 g of a clear dark red oil. The infrared and proton nmr spectra are consistent with the desired structure. Gas-liquid chromatography analysis gives a purity of 96%.

reactant | 3-chloro-4-methylbenzoic acid | 0.19 mol, 32.2 g | ClC=1C=C(C(=O)O)C=CC1C | C8H7ClO2
reactant | 3-chloro-4-methyl-benzoyl chloride | ClC=1C=C(C(=O)Cl)C=CC1C | C8H6Cl2O
reactant | diethylamine | 0.418 mol, 43.3 mL | C(C)NCC | C4H11N
reactant | water | 300 mL | O | H2O
solvent | thionyl chloride | 100 mL | S(=O)(Cl)Cl | Cl2OS
catalyst | dimethylformamide | 2 drops | CN(C=O)C | C3H7NO
solvent | tetrahydrofuran | 300 mL | O1CCCC1 | C4H8O
product | 3-chloro-N,N-diethyl-p-toluamide | 40.0 g | ClC=1C=C(C=CC1C(=O)N(CC)CC)C | C12H16ClNO
